US09382288B2
2β-Amino-cholestane-3-ol
4 g 2β-azido-cholestane-3-ol and 0.2 g lithium aluminium hydride are stirred in 50 ml abs. ether for one day at room temperature. After careful decomposition with water and repeated ether extraction, the combined ethereal solutions are washed with water, dried over sodium sulfate and the solvent is reduced to 50 ml. Upon introduction of hydrogen chloride, the corresponding hydrochloride crystallizes out in the form of colorless needles which, after recrystallization from acidified methanol, melt at 254-256° C.

reactant | 2β-azido-cholestane-3-ol | 4 g | N(=[N+]=[N-])[C@@H]1C(CC2CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@]2(C1)C)C)O | C27H47N3O
reactant | lithium aluminium hydride | 0.2 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ether | CCOCC | C4H10O
solvent | water | O | H2O
product | 2β-Amino-cholestane-3-ol | N[C@@H]1C(CC2CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@]2(C1)C)C)O | C27H49NO
